US06716837B1
6-Bromo-1-(tetrahydropyran-4-yl)-indole (compound 15)
6-Bromo-1-(N-methyl-piperidin4-yl)-indole; from 4-Bromo-2-[(N-methyl-piperidin-4-yl)amino]-phenylacetaldehyde, dimethyl acetal (108 mg, 0.30 mmol). Yield 69.4 mg (79%).

reactant | 6-Bromo-1-(N-methyl-piperidin4-yl)-indole | BrC1=CC=C2C=CN(C2=C1)C1CCN(CC1)C | C14H17BrN2
reactant | 4-Bromo-2-[(N-methyl-piperidin-4-yl)amino]-phenylacetaldehyde | BrC1=CC(=C(C=C1)CC=O)NC1CCN(CC1)C | C14H19BrN2O
product | 6-Bromo-1-(tetrahydropyran-4-yl)-indole | BrC1=CC=C2C=CN(C2=C1)C1CCOCC1 | C13H14BrNO
